US08283359B2
2-Methylsulfanylthieno[2,3-b]pyridine-3-carboxylic Acid Ethyl Ester
To a solution of ethyl (2-chloropyridin-3-yl)acetate (D. H. Bremner et al., Synthesis, 1997, 949) (8.0 g, 40.0 mmol) and carbon disulfide (3.18 g, 42.0 mmol) in DMSO (100 mL) was added sodium hydride portionwise (2.4 g, 60.0 mmol). After 60 minutes stirring at room temperature the mixture was heated at 80° C. for 2 hours. After this time the reaction mixture was allowed to cool to room temperature and methyl iodide (7.6 g, 54.0 mmol) added. After 18 hours ice (50 mL) was added and a yellow precipitate formed which was isolated via filtration to give the title compound as a grey solid (7.95 g, 78%). δH (DMSO-d6) 8.60 (1H, dd, J 1.6, 8.2 Hz), 8.46, (1H, dd, J 1.6, 4.6 Hz), 7.35 (1H, dd, J 4.6, 8.2 Hz), 4.48 (2H, q, J 7.1 Hz), 2.71, (3H, s), 1.49 (3H, t, J 7.1 Hz).

reactant | ethyl (2-chloropyridin-3-yl)acetate | 40.0 mmol, 8.0 g | ClC1=NC=CC=C1CC(=O)OCC | C9H10ClNO2
reactant | carbon disulfide | 42.0 mmol, 3.18 g | C(=S)=S | CS2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 54.0 mmol, 7.6 g | CI | CH3I
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 2-Methylsulfanylthieno[2,3-b]pyridine-3-carboxylic Acid Ethyl Ester | 7.95 g, 78% | C(C)OC(=O)C1=C(SC2=NC=CC=C21)SC | C11H11NO2S2
